US06025370
In 20 ml of N,N-dimethylformamide was dissolved 1.00 g of methyl 2,4-difluoro-3-hydroxy-benzoate, followed by adding thereto 0.88 g of potassium carbonate and then 12 ml of a 6 M solution of chlorodifluoromethane in N,N-dimethylformamide, and the resulting mixture was stirred in a sealed tube at 120-130° C. for 2.5 hours. The reaction mixture was added to a mixed solvent of 100 ml of ethyl acetate and 200 ml of water and the pH was adjusted to 2 with 6N hydrochloric acid, after which the organic layer was separated. The organic layer obtained was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by a column chromatography (eluent; n-hexane:ethyl acetate=4:1) to obtain 1.02 g of methyl 2,4-difluoro-3-difluoromethoxybenzoate as colorless crystals.

reactant | methyl 2,4-difluoro-3-hydroxy-benzoate | 1.00 g | FC1=C(C(=O)OC)C=CC(=C1O)F | C8H6F2O3
reactant | potassium carbonate | 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2,4-difluoro-3-difluoromethoxybenzoate | 1.02 g | FC1=C(C(=O)OC)C=CC(=C1OC(F)F)F | C9H6F4O3
